US08466180B2
2,6-Dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-benzoic acid methyl ester (7 g, 0.021 mol) (Example I2) was dissolved in dioxane (70 ml) and methanol (15 ml), then aqueous sodium hydroxide (4N) (52.2 ml, 0.21 mol) was added. The mixture was stirred at 60° C. for 15 hours. The methanol was evaporated and the mixture was cooled to 0° C. before acidifying to pH=1 by addition of concentrated hydrochloric acid. The mixture was extracted three times with ethyl acetate. The combined organic phases were washed with water, dried over sodium sulfate and concentrated to give the 2,6-dimethyl-4-(1,2,2,2-tetra-fluoro-1-trifluoromethyl-ethyl)-benzoic acid (6.52 g, 98% yield). 1H-NMR (CDCl3, 400 MHz): 7.31 (s, 2H), 2.49 (s, 6H) ppm.

reactant | 2,6-Dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-benzoic acid methyl ester | 0.021 mol, 7 g | COC(C1=C(C=C(C=C1C)C(C(F)(F)F)(C(F)(F)F)F)C)=O | C13H11F7O2
reactant | sodium hydroxide | 0.21 mol, 4N, 52.2 ml | [OH-].[Na+]
solvent | dioxane | 70 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 15 ml | CO | CH4O
product | 2,6-dimethyl-4-(1,2,2,2-tetra-fluoro-1-trifluoromethyl-ethyl)-benzoic acid | 6.52 g, 98% yield | CC1=C(C(=O)O)C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)C | C12H9F7O2
